US05554620
To 1.5 L of toluene was added 32 g (0.133 mol) of 6-methoxy-1-phenyl-indan-1-ol and 100 mg of p-toluenesulfonic acid monohydrate and the mixture was placed on a Rotovap and the solvent was distilled in vacuo (40 mm) until a brown oil residue was obtained. The brown oil was chromatographed (silica, 1:1 hexane/methylene chloride) to afford 17.47 g (60.2%) of 1-phenyl-6-methoxy-indene as a pale yellow oil.

reactant | 6-methoxy-1-phenyl-indan-1-ol | 0.133 mol, 32 g | COC1=CC=C2CCC(C2=C1)(O)C1=CC=CC=C1 | C16H16O2
reactant | p-toluenesulfonic acid monohydrate | 100 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 1.5 L | C1(=CC=CC=C1)C | C7H8
product | 1-phenyl-6-methoxy-indene | 17.47 g, 60.2% | C1(=CC=CC=C1)C1C=CC2=CC=C(C=C12)OC | C16H14O
